US07629358B2
Preparation 160: 3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]-N-[2-(3-methoxyphenyl)ethyl]benzamide
The title compound was prepared from 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxy methyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid (preparation 37) and 3-methoxyphenethylamine, using a similar method to that of preparation 158, in 98% yield.

reactant | 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxy methyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)O)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C26H39NO5Si
reactant | 3-methoxyphenethylamine | COC=1C=C(CCN)C=CC1 | C9H13NO
product | 3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]-N-[2-(3-methoxyphenyl)ethyl]benzamide | 98% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)NCCC2=CC(=CC=C2)OC)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C35H50N2O5Si
